US05180742
In acetic acid (35 ml) was dissolved 3.50 g (8.06 mmole) of methyl 6-[4-(1-imidazolyl)benzyl]-6-(3,5,6-trimethyl-1,4-benzoquinon -2-yl)hexanoate, and concentrated hydrochloric acid (16.1 ml) was added to the solution, followed by stirring at 100° C. for 1 hour. The solvent was distilled off, and acetone was added to the residue, followed by concentration under reduced pressure. The residue was chromatographed on a silica gel column, and elution was performed with chloroform/methanol (6:1). The fractions containing the object compound were collected nd concentrated under reduced pressure, and the residue was crystallized to give 2.94 g (87%) of 6-[4-(1-imidazolyl)benzyl]-6-(3,5,6-trimethyl-1,4-benzoquinon -2-yl)hexanoic acid.

reactant | methyl 6-[4-(1-imidazolyl)benzyl]-6-(3,5,6-trimethyl-1,4-benzoquinon -2-yl)hexanoate | 8.06 mmole, 3.50 g | N1(C=NC=C1)C1=CC=C(CC(CCCCC(=O)OC)C=2C(C(=C(C(C2C)=O)C)C)=O)C=C1 | C26H30N2O4
reactant | hydrochloric acid | 16.1 ml | Cl | ClH
solvent | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
product | 6-[4-(1-imidazolyl)benzyl]-6-(3,5,6-trimethyl-1,4-benzoquinon -2-yl)hexanoic acid | 2.94 g, 87% | N1(C=NC=C1)C1=CC=C(CC(CCCCC(=O)O)C=2C(C(=C(C(C2C)=O)C)C)=O)C=C1 | C25H28N2O4
